US04175206
42.1 g of potassium glyoxylate, 75 g of ammonium acetate, 60 g of phenol and 130 ml of water are treated in the same manner as described in Example 1. The reaction was conducted for a period of 24 hours. 18.1 g of DL-p-hydroxyphenylglycine are thereby obtained as crystals. Yield 33.6%.

reactant | potassium glyoxylate | 42.1 g | C(C=O)(=O)[O-].[K+]
reactant | ammonium acetate | 75 g | C(C)(=O)[O-].[NH4+]
reactant | phenol | 60 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | 130 ml | O | H2O
product | DL-p-hydroxyphenylglycine | 18.1 g, Yield 33.6% | C1=CC(=CC=C1C(C(=O)O)N)O | C8H9NO3
